US06982348B2
To a solution of N-(2-(4-fluorophenyl)-2-oxo-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-oxo-4H-pyran-2-carboxamide (400 mg, 0.92 mmol) in methanol (30 ml) was added manganese (II) chloride (232 mg, 1.85 mmol), and the mixture was stirred at room temperature for 30 min. To the reaction solution was added sodium borohydride (70 mg, 1.85 mmol) under ice-cooling and the mixture was stirred for 1 hr. The reaction solution was poured into 1N hydrochloric acid (30 ml), and extracted with ethyl acetate (50 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate). High polar fractions were collected and concentrated, and the obtained crude crystal was washed with hexane to give N-(2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-oxo-4H-pyran-2-carboxamide((1RS,2SR) form: (1RS,2RS) form=3:2, 139 mg, 35%).

reactant | N-(2-(4-fluorophenyl)-2-oxo-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-oxo-4H-pyran-2-carboxamide | 0.92 mmol, 400 mg | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(=O)C=1OC=CC(C1)=O)=O | C22H15F4NO4
reactant | sodium borohydride | 1.85 mmol, 70 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
catalyst | manganese (II) chloride | 1.85 mmol, 232 mg | [Cl-].[Mn+2].[Cl-]
product | N-(2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-4-oxo-4H-pyran-2-carboxamide | 139 mg, 35% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(=O)C=1OC=CC(C1)=O)O | C22H17F4NO4
